US07678818B2
Preparation of 2-methylamino-5-vinyl-nicotinic acid ethyl ester
A solution of 5-bromo-2-methylamino-nicotinic acid ethyl ester (100 mg, 0.39 mmol), lithium chloride (98 mg, 2.32 mmol), copper(I)chloride (191 mg, 1.93 mmol), vinyl tributyl tin (151 mg, 0.46 mmol), and tetrakis(triphenylphosphine)palladium(0) (45 mg, 39 μmol) in methyl sulfoxide (3.1 mL) was stirred at 65° C., then after 4 h another portion of vinyl tributyl tin (141 mg, 0.46 mmol) was added, and stirring was continued for 18 h. After cooling, the reaction mixture was partitioned between sat. aq. ammonium chloride solution and diethyl ether, the organic layer was washed with water, dried (MgSO4), and evaporated. Chromatography (SiO2, heptane-ethyl acetate gradient) afforded the title compound (72 mg, 91%). Yellow liquid, MS (ISP): 207.1 (M+H)+.

reactant | 5-bromo-2-methylamino-nicotinic acid ethyl ester | 0.39 mmol, 100 mg | C(C)OC(C1=C(N=CC(=C1)Br)NC)=O | C9H11BrN2O2
reactant | lithium chloride | 2.32 mmol, 98 mg | [Cl-].[Li+]
reactant | vinyl tributyl tin | 0.46 mmol, 151 mg | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | vinyl tributyl tin | 0.46 mmol, 141 mg | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | methyl sulfoxide | 3.1 mL | CS(=O)C | C2H6OS
catalyst | copper(I)chloride | 1.93 mmol, 191 mg | [Cu]Cl
catalyst | tetrakis(triphenylphosphine)palladium(0) | 39 μmol, 45 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-methylamino-5-vinyl-nicotinic acid ethyl ester | 72 mg, 91% | C(C)OC(C1=C(N=CC(=C1)C=C)NC)=O | C11H14N2O2
